US05985873
Methylamine hydrochloride (37 mg, 0.546 mmol) was added to a solution of 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-1-piperidinecarboxamide (cis isomer) (43 mg, 0.091 mmol) in THF/MeOH (1:1) and stirred at room temperature. When all the methylamine hydrochloride had dissolved, NaCNBH4 (6 mg, 0.091 mmol) was added and the reaction allowed to stir overnight at room temperature. The reaction mixture was concentrated, dissolved in an excess of 3N HCl, and the aqueous solution washed with ether (3×). The aqueous solution was made basic with 10N NaOH, extracted with EtOAc (4×), dried (Na2SO4), and concentrated to give 4-(methylamino)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide (cis isomer) as a clear oil. The HCl salt was prepared by adding excess saturated EtOAc/HCl solution to the free base in dry MeOH. Concentration of the homogeneous solution yielded a white solid which was washed with EtOAc. mp=154-155° C.

reactant | Methylamine hydrochloride | 0.546 mmol, 37 mg | Cl.CN
reactant | 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-1-piperidinecarboxamide | 0.091 mmol, 43 mg | O=C1CCN(CC1)C(=O)NC1=CC(=CC=C1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C29H38N4O2
solvent | THF MeOH | C1CCOC1.CO
product | 4-(methylamino)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide | CNC1CCN(CC1)C(=O)NC1=CC(=CC=C1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C30H43N5O
